US07037905B2
2-(3-Bromophenyl)-[1,3,6,2]dioxazaborocane
The title compound (78%, crystals) was prepared from 3-bromophenylboronic acid and diethanolamin.

reactant | 3-bromophenylboronic acid | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(3-Bromophenyl)-[1,3,6,2]dioxazaborocane | 78% | BrC=1C=C(C=CC1)B1OCCNCCO1 | C10H13BBrNO2
